### PR TITLE
chore(logDeriv_lems): shorten proof of logDeriv_tprod_eq_tsum2

### PR DESCRIPTION
**Pull request by dwrensha**
Replaces 10 lines of proof with an invocation of [`DifferentiableOn.finset_prod`](https://github.com/leanprover-community/mathlib4/blob/c0578d69c9ef081573c419931de7b7e2ffeda95e/Mathlib/Analysis/Calculus/Deriv/Mul.lean#L456-L459).

### CODE REVIEW

File: SpherePacking/ModularForms/logDeriv_lems.lean [hunk 1]
```diff
@@ -41,17 +41,8 @@ theorem logDeriv_tprod_eq_tsum2 {s : Set ℂ} (hs : IsOpen s) (x : s) (f : ℕ 
...
-      apply DifferentiableAt.differentiableWithinAt
-      have hp : ∀ (i : ℕ), i ∈ Finset.range b →  DifferentiableAt ℂ (f i) z := by
-        intro i hi
-        have := (hd i z hz).differentiableAt
-        apply this
-        exact IsOpen.mem_nhds hs hz
-      have := DifferentiableAt.finset_prod hp
-      convert this
+    · intro _ _
+      exact DifferentiableOn.finset_prod fun i a ↦ hd i
```
Comment (dwrensha) [inline SpherePacking/ModularForms/logDeriv_lems.lean:45]: The goal here is
```lean
s : Set ℂ
hs : IsOpen s
x : ↑s
f : ℕ → ℂ → ℂ
hf : ∀ (i : ℕ), f i ↑x ≠ 0
hd : ∀ (i : ℕ), DifferentiableOn ℂ (f i) s
hm : Summable fun i ↦ logDeriv (f i) ↑x
htend : MultipliableLocallyUniformlyOn f s
hnez : ∏' (i : ℕ), f i ↑x ≠ 0
h2 : Tendsto (fun n ↦ ∑ i ∈ Finset.range n, logDeriv (f i) ↑x) atTop (𝓝 (∑' (b : ℕ), logDeriv (f b) ↑x))
g : ℂ → ℂ := fun x ↦ ∏' (i : ℕ), f i x
this :
  ∀ a ∈ s,
    TendstoLocallyUniformlyOn (fun n ↦ ∏ i ∈ Finset.range n, f i) (fun x ↦ ∏' (i : ℕ), f i x) atTop s →
      ∀ (x : ℕ),
        (∀ (b : ℕ), x ≤ b → DifferentiableOn ℂ (∏ i ∈ Finset.range b, f i) s) →
          ¬∏' (i : ℕ), f i a = 0 →
            Tendsto (fun n ↦ logDeriv (∏ i ∈ Finset.range n, f i) a) atTop (𝓝 (logDeriv (fun x ↦ ∏' (i : ℕ), f i x) a))
b : ℕ
a : 0 ≤ b
⊢ DifferentiableOn ℂ (∏ i ∈ Finset.range b, f i) s
```

(just to show that there is no defeq abuse happening in this diff)

**Comment by CBirkbeck** [comment]
Yes in [this](https://github.com/leanprover-community/mathlib4/pull/28596/files) PR this stuff is a bit more cleaned up. but the PR is waiting for more E2 stuff to be added. I'm working my way through PR the modular form stuff I wrote, so its not super important to clean it up here.
